US03931218
Forty grams of 2-(p-chlorobenzoyl)-N-[2-methyl-2-(p-toluenesulfonamido)ethyl]-N-ethylbenzamide and 100 ml. of 90% (v/v) sulfuric acid were mixed together and heated in a steam bath for 45 minutes. After standing at room temperature 21 hours, the solution was quenched with 500 ml. of ice water. The mixture was extracted with dichloromethane. The aqueous portion was cooled and made basic with 50% sodium hydroxide solution. The mixture was extracted with ethyl acetate. The ethyl acetate portion was extracted with water then dried over magnesium sulfate. The solvent was removed in vacuo. The residue was dissolved in diethyl ether and treated with hydrogen chloride. The solid was separated and recrystallized from ethanol-ethyl acetate to obtain 4'-chloro-2-(1-ethyl-4-methyl-2-imidazolin-2-yl)benzophenone hydrochloride, m.p. 212°-214°C.

reactant | 2-(p-chlorobenzoyl)-N-[2-methyl-2-(p-toluenesulfonamido)ethyl]-N-ethylbenzamide | Forty grams | ClC1=CC=C(C(=O)C2=C(C(=O)N(CC)CC(NS(=O)(=O)C3=CC=C(C=C3)C)C)C=CC=C2)C=C1 | C26H27ClN2O4S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4'-chloro-2-(1-ethyl-4-methyl-2-imidazolin-2-yl)benzophenone hydrochloride | Cl.ClC1=CC=C(C=C1)C(C1=C(C=CC=C1)C=1N(CC(N1)C)CC)=O | InChI=1S/C19H19ClN2O.ClH/c1-3-22-12-13(2)21-19(22)17-7-5-4-6-16(17)18(23)14-8-10-15(20)11-9-14;/h4-11,13H,3,12H2,1-2H3;1H
